US06888029B2
Preparation of N-(4-t-Butylphenyl) morpholine (10)
A solution of Pd2(dba)3 [92 mg, 0.1 mmol (4.6 mg, 0.005 mmol, 2 mol % Pd per reaction)], ligand 1 (see FIG. 1) [168 mg, 0.4 mmol (8.4 mg, 0.02 mmol, 4 mol % per reaction)] and NaOt-Bu [40 mg, 0.4 mmol (2 mg, 0.02 mmol, 4 mol % per reaction)] were stirred in 10 mL DME (anhy). After 10 minutes, 0.5 mL of the solution was added via syringe to a test tube containing (under an Argon atmosphere) K3PO4 (148 mg, 0.7 mmol), 1-bromo-4-tert-butylbenzene (86 μL, 0.5 mmol), and morpholine (52 μL, 0.6 mmol). The test tube was capped (with a proper cap-no rubber septa) and heated at 100° C. for 18 hours. The reaction mixture was allowed to cool to r.t., diluted with ether and dodecane was added as an internal standard. The GC yield was calculated to be 12%.

reactant | NaOt-Bu | 0.4 mmol, 40 mg | CC(C)(C)[O-].[Na+]
reactant | K3PO4 | 0.7 mmol, 148 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 1-bromo-4-tert-butylbenzene | 0.5 mmol, 86 μL | BrC1=CC=C(C=C1)C(C)(C)C | C10H13Br
reactant | morpholine | 0.6 mmol, 52 μL | N1CCOCC1 | C4H9NO
solvent | DME | 10 mL | COCCOC | C4H10O2
solvent | ether | CCOCC | C4H10O
solvent | dodecane | CCCCCCCCCCCC | C12H26
catalyst | Pd2(dba)3 | 0.1 mmol, 92 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(4-t-Butylphenyl) morpholine | C(C)(C)(C)C1=CC=C(C=C1)N1CCOCC1 | C14H21NO
